US07855227B2
Step D [2-[4-(3-Fluoro-benzyloxy)-3-methoxy-phenyl]-ethylamino]-acetic acid methyl ester hydrochloride
1 g (3.2 mmol) of 2-[4-(3-fluoro-benzyloxy)-3-methoxy-phenyl]-ethylamine, 833 mg (6 mmol) of K2CO3, 50 mg of potassium iodide and 0.27 ml (2.9 mmol) of bromo-acetic acid methyl ester were dissolved in 10 ml of dimethylformamide and the mixture was stirred at room temperature overnight. Solvent was removed, water was added to the residue and the residue was extracted with ethyl acetate. The crude product was purified by flash chromatography (dichloromethane/methanol/NH3 100:0:0→100:2.5:0.25 gradient v:v:v). The product obtained was dissolved in anhydrous hydrochloric acid in ethyl acetate. The solvent was removed and the residue was triturated with diethyl ether. 482 mg (39% yield) of the title compound were obtained as a brown solid.

reactant | 2-[4-(3-fluoro-benzyloxy)-3-methoxy-phenyl]-ethylamine | 3.2 mmol, 1 g | FC=1C=C(COC2=C(C=C(C=C2)CCN)OC)C=CC1 | C16H18FNO2
reactant | K2CO3 | 6 mmol, 833 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | potassium iodide | 50 mg | [I-].[K+]
reactant | bromo-acetic acid methyl ester | 2.9 mmol, 0.27 ml | COC(CBr)=O | C3H5BrO2
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [2-[4-(3-Fluoro-benzyloxy)-3-methoxy-phenyl]-ethylamino]-acetic acid methyl ester hydrochloride | 482 mg, 39% yield | Cl.COC(CNCCC1=CC(=C(C=C1)OCC1=CC(=CC=C1)F)OC)=O | InChI=1S/C19H22FNO4.ClH/c1-23-18-11-14(8-9-21-12-19(22)24-2)6-7-17(18)25-13-15-4-3-5-16(20)10-15;/h3-7,10-11,21H,8-9,12-13H2,1-2H3;1H
